US06313151B1
B. N2-(4-methoxybenzoyl)-2,3-pyridinediamine
A solution of N3-(tert-butoxycarbonyl)—N2-(4-methoxybenzoyl)-2,3-pyridinediamine (350 mg, 1.02 mmol) in acetic acid (2 mL) at 0° C. was treated with boron trifluoride etherate (0.50 mL, 4.1 mmol). After 2 h, the mixture was poured into aqueous sodium bicarbonate and ethyl acetate. The aqueous layer was extracted three times with ethyl acetate and the combined extracts were dried (magnesium sulfate), filtered, and concentrated in vacuo. Purification of the residue by chromatography (silica gel, ethyl acetate/methylene chloride) yielded 122 mg (49%) of the title compound.

reactant | N3-(tert-butoxycarbonyl)—N2-(4-methoxybenzoyl)-2,3-pyridinediamine | 1.02 mmol, 350 mg | C(C)(C)(C)OC(=O)NC=1C(=NC=CC1)NC(C1=CC=C(C=C1)OC)=O | C18H21N3O4
reactant | boron trifluoride etherate | 4.1 mmol, 0.50 mL | B(F)(F)F.CCOCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | N2-(4-methoxybenzoyl)-2,3-pyridinediamine | 122 mg, 49% | COC1=CC=C(C(=O)NC2=NC=CC=C2N)C=C1 | C13H13N3O2
